US05968938
To a stirred solution of methyl 4-(tert-butyloxycarbonyl-amino)-2-(2,2,2-trifluoroethoxy)phenylacetate (0.90 g, 2.5 mmol) in MeOH (15 mL) was added aqueous NaOH (2.5 mL of a 3 N solution, 7.5 mmol). The mixture was refluxed for 1 h. The solvents were removed under reduced pressure and the residue was partitioned between EtOAc (100 mL) and 0.25 M aqueous citric acid (25 mL). The organic phase was separated, washed with water (25 mL), dried (MgSO4), filtered, and the solvent was removed under reduced pressure to give 4-(tert-butyloxycarbonylamino)-2-(2,2,2-trifluoroethoxy)-phenylacetic acid as an amorphous solid (HPLC retention time=8.8 min (method A)).

reactant | methyl 4-(tert-butyloxycarbonyl-amino)-2-(2,2,2-trifluoroethoxy)phenylacetate | 2.5 mmol, 0.90 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)CC(=O)OC)OCC(F)(F)F | C16H20F3NO5
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 4-(tert-butyloxycarbonylamino)-2-(2,2,2-trifluoroethoxy)-phenylacetic acid | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)CC(=O)O)OCC(F)(F)F | C15H18F3NO5
